US04780528
(B) D-Seryl-α-L-aspartyl-L-phenylalanine methyl ester
In 50ml of water was dissolved 1.1 g of D-seryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride. After the solution was neutralized with sodium bicarbonate, the solution was adsorbed on a column (50 ml) of styrene divinyl type adsorption resin (manufactured by Mitsubishi Chemical Industries, Ltd. "Adsorption Resin SP-207"). After washing with 200 ml of water, elution was performed with 200 ml of water/methanol=50/50 vol%. The solvent was removed by distillation to obtain 0.8 g of white powders. m.p. 196°-199° C.

reactant | D-seryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride | 1.1 g | Cl.COC([C@@H](NC([C@@H](NC([C@H](N)CO)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 50ml | O | H2O
product | D-Seryl-α-L-aspartyl-L-phenylalanine methyl ester | 0.8 g | COC([C@@H](NC([C@@H](NC([C@H](N)CO)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C17H23N3O7
